US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-{4-[3-((3R, 5S)-3,5-dimethyl-piperazin-1-yl)-3-oxo-propyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of 5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one (122 mg, 0.34 mmol), 4-[3-((3R, 5S)-3,5-dimethyl-piperazin-1-yl)-3-oxo-propyl]-3,5-dimethyl-1H-pyrrole-2-carbaldehyde (139 mg, 1.4 eq.) and piperidine (0.5 eq.) in ethanol (2 mL) was stirred at rt for 72 hours. The reaction was concentrated and purified on a silica gel column to give the titled compound as a dark brown orange solid.

reactant | 5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 0.34 mmol, 122 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 4-[3-((3R, 5S)-3,5-dimethyl-piperazin-1-yl)-3-oxo-propyl]-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 139 mg, 1.4 eq. | C[C@@H]1CN(C[C@@H](N1)C)C(CCC=1C(=C(NC1C)C=O)C)=O | C16H25N3O2
reactant | piperidine | 0.5 eq. | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-{4-[3-((3R, 5S)-3,5-dimethyl-piperazin-1-yl)-3-oxo-propyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)CCC(=O)N1C[C@H](N[C@H](C1)C)C)C | C31H34Cl2N4O4S
